* SUDS ADC macro sanity deck for ngspice
* Evidence label: spice_macro
* Boundary: behavioral/macro deck for ADC-tier energy calibration only.
* Not PDK, not extracted layout, not silicon, not measured hardware energy.

.param VDD=1.0
.param BITS=4
.param FS_GSPS=1
.param NCONV=128

Vvdd vdd 0 {VDD}
Vin in 0 PWL(0 0 1.280000000000e-07 1.0)
Rsrc in afe 50
Csample afe 0 1.000000000000e-15
Iadc vdd 0 PULSE(0 3.472222222222e-04 0 1.000000000000e-11 1.000000000000e-11 1.800000000000e-10 1.000000000000e-09)

.control
set filetype=ascii
set wr_singlescale
set wr_vecnames
tran 3.125000000000e-11 1.280000000000e-07
wrdata experiments/results/runs/suds_adc_macro_spice_20260512_j1_quality_boost/ngspice/traces/adc4_ramp_mismatch_stress.csv time v(in) v(afe) i(Vvdd)
quit
.endc

.end
